US05646173
A solution of 22.0 g of 6-methoxy-3,3-diethyl-1-indanone, 20.8 ml of 3-buten-2-ol and 220 mg of p-toluenesulfonic acid in 220 ml of 2,2-dimethoxypropane was boiled under reflux for 87 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 6:1). In addition to 15.7 g of educt, there were obtained 4.1 g (15%) of (RS)-2-(2-buten-1-yl)-6-methoxy-3,3-diethyl-1-indanone as a yellow oil.

reactant | 6-methoxy-3,3-diethyl-1-indanone | 22.0 g | COC1=CC=C2C(CC(C2=C1)=O)(CC)CC | C14H18O2
reactant | 3-buten-2-ol | 20.8 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 220 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxypropane | 220 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-6-methoxy-3,3-diethyl-1-indanone | 4.1 g, 15% | C(C=CC)C1C(C2=CC(=CC=C2C1(CC)CC)OC)=O | C18H24O2
